US08258130B2
A solution of 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride (0.36 mmol), trifluoroacetic anhydride (1.08 mmol) and Et3N (1.44 mmol) in DMF (8 mL) is stirred under N2 at rt overnight. The reaction mixture is concentrated in vacuo. The residue is dissolved in EtOAc (15 mL), washed with water (10 ml) and brine (15 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is triturated with ether to give 2-phenyl-pyrimidine-5-carboxylic acid [4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-amide (136 mg, 100%) as a solid. MS: 380 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.95-3.40 (s, 4H), 3.60-4.10 (m, 4H), 7.41-7.68 (m, 3H), 8.52 (d, 2H), 9.03-9.40 (br, 2H). IC50=57 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride | 0.36 mmol | Cl.Cl.N1(CCNCC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1
reactant | trifluoroacetic anhydride | 1.08 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Et3N | 1.44 mmol | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-pyrimidine-5-carboxylic acid [4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-amide | 136 mg, 100% | FC(C(=O)N1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)(F)F | C17H16F3N5O2
